US08168567B2
4-[(3-(tert-Butyl)-1,2,4-thiadiazol-5-yl)oxy]-2,5-dimethylaniline
754 mg (5.50 mmol) of 2,5-dimethyl-4-hydroxyaniline are dissolved in 5 ml of N,N-dimethylformamide and slowly treated with 242 mg (6.05 mmol) of sodium hydride. The reaction mixture is stirred for 15 min, before 972 mg (5.50 mmol) of 3-(tert-butyl)-5-chloro-1,2,4-thiadiazole are added. Subsequently, the reaction mixture is heated at 100° C. for 1 h and then cooled down to AT. After addition of 20 ml of ethyl acetate, the solution is extracted three times with water and dried over MgSO4, and the solvent is removed under vacuum (1.46 g, 94% purity, 90% yield, log P (pH 2.3)=3.29).

reactant | 2,5-dimethyl-4-hydroxyaniline | 5.50 mmol, 754 mg | CC1=C(N)C=C(C(=C1)O)C | C8H11NO
reactant | sodium hydride | 6.05 mmol, 242 mg | [H-].[Na+]
reactant | 3-(tert-butyl)-5-chloro-1,2,4-thiadiazole | 5.50 mmol, 972 mg | C(C)(C)(C)C1=NSC(=N1)Cl | C6H9ClN2S
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[(3-(tert-Butyl)-1,2,4-thiadiazol-5-yl)oxy]-2,5-dimethylaniline | 90% yield | C(C)(C)(C)C1=NSC(=N1)OC1=CC(=C(N)C=C1C)C | C14H19N3OS
